US09381191B2
2.405 g (12.16 mmol) of ethyl imidazo[1,2-a]pyridine-2-carboxylate were dissolved in 60 ml of acetonitrile with magnetic stirring, to this solution were added 3.01 g (13.38 mmol) of N-iodosuccinimide. The mixture was stirred at r.t. for 1 h. The reaction mixture was treated with 50 ml of 100 mg/ml Na2S2O5 aqueous solution. The aqueous phase was extracted with 2×100 ml of ethyl acetate. The aqueous phase was neutralized by adding NaHCO3 portionwise and then extracted with 3×100 ml of ethyl acetate. The whole of the organic phases was combined and then washed with 200 ml of a saturated NaCl aqueous solution, and then dried on Na2SO4 which was then removed by filtration. The obtained filtrate was concentrated in vacuo in order to obtain 1.59 g (yield=41%) of ethyl 3-iodoimidazo[1,2-a]pyridine-2-carboxylate as a pale yellow solid. LC-MS: m/z=317 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.45 (d, J=6.9 Hz, 1H), 7.66 (d, J=9.1 Hz, 1H), 7.46 (d, J=7.0 Hz, 1H), 7.15 (d, J=6.6 Hz, 1H), 4.30 (d, J=7.1 Hz, 2H), 1.36 (d, J=7.1 Hz, 3H).

reactant | ethyl imidazo[1,2-a]pyridine-2-carboxylate | 12.16 mmol, 2.405 g | N=1C(=CN2C1C=CC=C2)C(=O)OCC | C10H10N2O2
reactant | N-iodosuccinimide | 13.38 mmol, 3.01 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | ethyl 3-iodoimidazo[1,2-a]pyridine-2-carboxylate | 1.59 g, yield=41% | IC1=C(N=C2N1C=CC=C2)C(=O)OCC | C10H9IN2O2
